US06630504B2
2-[4-(Methylsulfanyl)phenoxy]benzonitrile
2-Fluorobenzonitrile (15.7 mL, 149 mmol) and 4-(methylsulfanyl)phenol (25 g, 178 mmol) were dissolved in DMF (500 mL) and K2CO3 (61.8 g, 447 mmol) was then added. The mixture was heated at 100° C. for 16 h under a nitrogen atmosphere. After cooling to room temperature the mixture was evaporated to dryness and then partitioned between ether (1 L) and water (2 L). The organic layer was separated, washed with 2M NaOH (500 mL), 10% (aq) K2CO3 (500 mL), dried (MgSO4) and evaporated to give a light brown solid (35.62 g, 92%); δH (CDCl3, 400 MHz) 2.50 (3H, s), 6.82 (1H, d), 7.05 (2H, d), 7.15 (1H, t), 7.30 (2H, m), 7.43 (1H, t), 7.62 (1H, d); MS m/z (TS+) 259 (MNH4+).

reactant | 2-Fluorobenzonitrile | 149 mmol, 15.7 mL | FC1=C(C#N)C=CC=C1 | C7H4FN
reactant | 4-(methylsulfanyl)phenol | 178 mmol, 25 g | CSC1=CC=C(C=C1)O | C7H8OS
reactant | K2CO3 | 447 mmol, 61.8 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 500 mL | CN(C)C=O | C3H7NO
product | 2-[4-(Methylsulfanyl)phenoxy]benzonitrile | 35.62 g, 92% | CSC1=CC=C(OC2=C(C#N)C=CC=C2)C=C1 | C14H11NOS
